US06048880
3-Acetyl-5-bromo-2,4-dimethylfuran (Step 1)
A mixture of 3-acetyl-2,4-dimethylfuran (commercially available from Aldrich Chemical Co., Inc., 1 g, 7.24 mmol), N-bromosuccinimide (NBS; 1.3 g, 7.3 mmol), and 2,2'-azobisisobutyronitrile (AIBN; 3 mg) in benzene (10 mL) was heated at reflux temperature for one hour. After cooling, water (50 mL) was added to the mixture. The whole was extracted with benzene (50 mL), the organic layer washed with water, brine, dried over MgSO4, and concentrated in vacuo. Chromatographic purification of the residue eluting with ethyl acetate-hexane (1:10) provided the subtitle compound (1.38 g, 88% yield) as a pale yellow oil.

reactant | 3-acetyl-2,4-dimethylfuran | C(C)(=O)C1=C(OC=C1C)C | C8H10O2
reactant | N-bromosuccinimide | 7.3 mmol, 1.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2'-azobisisobutyronitrile | 3 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | water | 50 mL | O | H2O
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | 3-Acetyl-5-bromo-2,4-dimethylfuran | 1.38 g, 88% yield | C(C)(=O)C1=C(OC(=C1C)Br)C | C8H9BrO2
